US08461158B2
Methylamine (40 wt % in H2O, 1 mL) was added to a solution of 3-chlorosulfonyl-pyrrolidine-1-carboxylic acid benzyl ester (256 mg, 0.843 mmol) in THF (1 mL) at 0° C. The mixture was stirred at 0° C. for 10 min, and then warmed to room temperature and stirred for 2 hrs. Water was added and the phases were separated. The aqueous phase was extracted with CH2Cl2 (2×), the combined organic extracts were dried (Na2SO4), and the solvent was removed under vacuum. Chromatography on neutral alumina, eluting with CH2Cl2/MeOH (99:1 to 95:5), gave benzyl 3-[(methylamino)sulfonyl]-1-pyrrolidinecarboxylate (173 mg, 69%): 1H NMR (CDCl3) δ 7.36-7.29 (m, 5H), 5.14 (d, J=1.9 Hz, 2H), 4.27 (d, J=42.6 Hz, 1H), 3.80-3.70 (m, 4H), 3.50 (m, 1H), 2.82 (d, J=4.9 Hz, 3H), 2.35 (m, 2H).

reactant | Methylamine | 1 mL | CN | CH5N
reactant | 3-chlorosulfonyl-pyrrolidine-1-carboxylic acid benzyl ester | 0.843 mmol, 256 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)S(=O)(=O)Cl | C12H14ClNO4S
reactant | Water | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | benzyl 3-[(methylamino)sulfonyl]-1-pyrrolidinecarboxylate | 173 mg, 69% | CNS(=O)(=O)C1CN(CC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O4S
